US04385143
Into a 1-liter four-necked flask, were charged 58.4 g of methyl 6-methyl-2,4-di-t-butyl-3-hydroxyphenylacetate, 400 ml of toluene, and 6 ml of concentrated sulfuric acid. The mixture was heated under reflux for about 5 hours under a nitrogen stream. After completion of the reaction, the reaction mixture was neutralized with an aqueous sodium carbonate solution, washed with water, dehydrated, and freed from the solvent under reduced pressure to obtain 46.2 g (98% yield) of pale yellow methyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate which was distilled under reduced pressure (1 mmHg, 130°-140° C.) or recrystallized from n-hexane to yield white crystals having a melting point of 100.0°-101.5° C.

reactant | methyl 6-methyl-2,4-di-t-butyl-3-hydroxyphenylacetate | 58.4 g | CC1=CC(=C(C(=C1CC(=O)OC)C(C)(C)C)O)C(C)(C)C | C18H28O3
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate | 46.2 g, 98% yield | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)OC | C14H20O3
